US07544835B2
Under the similar conditions to those described in Production example 332a), 2.4 g of 4-ethoxybenzaldehyde and 5.6 g of (4S)-4-benzyl-3-(2-isopropoxyacetyl)-1,3-oxazolidin-2-one were reacted, to give 7.2 g of (4S)-3-[(3R,2S)-3-(4-ethoxyphenyl)-3-hydroxy-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one as a colorless solid.

reactant | 4-ethoxybenzaldehyde | 2.4 g | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | (4S)-4-benzyl-3-(2-isopropoxyacetyl)-1,3-oxazolidin-2-one | 5.6 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC(C)C)=O | C15H19NO4
product | (4S)-3-[(3R,2S)-3-(4-ethoxyphenyl)-3-hydroxy-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one | 7.2 g | C(C)OC1=CC=C(C=C1)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)O | C24H29NO6
